US08835659B2
Preparation of 3-(3,5-difluorophenyl)-1-benzofuran-4,6-diol, with the Following Structural Formula
This compound was prepared using Method B from 3,5-dimethoxyphenol and 2-bromo-1-(3,5-difluorophenyl)ethanone: Yield 50% following procedures B.2, B.3 and B.5; m.p. 149-151° C.; IR 3373, 1629, 1507, 1359, 1255, 1157, 1123, 1031 cm−1; 1H-NMR (500 MHz, δ ppm, DMSO-d6) 10.08 (s, 1H), 9.45 (s, 1H), 8.02 (s, 1H), 7.49 (d, J=7.7 Hz, 2H), 7.13 (t, J=9.4 Hz, 1H), 6.43 (s, 1H), 6.28 (s, 1H); 13C-NMR (75 MHz, δ ppm, CD3OD) 164.3 (dd, J=244.8 Hz, 13.4 Hz), 160.4, 158.1, 153.5, 141.7, 137.8 (t, J=10.7 Hz), 122.6, 112.8 (dd, J=8.1 Hz, 17.6 Hz), 108.4, 102.6 (t, J=25.9 Hz), 99.4, 91.0.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(3,5-difluorophenyl)ethanone | BrCC(=O)C1=CC(=CC(=C1)F)F | C8H5BrF2O
product | 3-(3,5-difluorophenyl)-1-benzofuran-4,6-diol | Yield 50% | FC=1C=C(C=C(C1)F)C1=COC=2C1=C(C=C(C2)O)O | C14H8F2O3
